US05733912
24d. 7a-(4-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine dihydrochloride salt
7a-(4-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine (37 mg, 0.18 mmol) was dissolved in Et2O, and Et2O saturated with HCl (g) was added. The solvent was removed, and the solid was triturated with Et2O and dried to afford the title compound as a white solid (26.2 mg, 61%): mp 244°-247° C.; 1H NMR D2O, 300 MHz) δ2.01-2.16 (m, 2H), 2.27-2.52 (m, 4H), 2.65 (s, 3H), 2.65-2.78 (m, 2H), 3.45-3.54 (m, 2H), 3.87-3.96 (m, 2H), 7.75 (d, J=5.6 Hz, 1H), 8.49 (s, 1H), 8.55 (d, J=5.6 Hz, 1H); MS (CI/NH3): m/z 203 (M+H+). Anal. Calcd for C13H18N2.2 HCl: C, 56.73; H, 7.32; N, 10.18. Found: C, 56.94; H. 7.24; N, 9.99.

reactant | 7a-(4-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine | 0.18 mmol, 37 mg | CC1=C(C=NC=C1)C12CCCN2CCC1 | C13H18N2
reactant | HCl | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
product | 7a-(4-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine dihydrochloride salt | 26.2 mg, 61% | Cl.Cl.CC1=C(C=NC=C1)C12CCCN2CCC1 | InChI=1S/C13H18N2.2ClH/c1-11-4-7-14-10-12(11)13-5-2-8-15(13)9-3-6-13;;/h4,7,10H,2-3,5-6,8-9H2,1H3;2*1H
